US07700598B2
103c (R)-3-(3-bromo-4-methyl-phenyl)-2-hydroxy-propionic acid
Under a nitrogen atmosphere a mixture of 2.9 g (11.3 mmol) 3-(3-bromo-4-methyl-phenyl)-2-oxo-propionic acid and 2.0 mL (15.1 mmol) triethylamine in 40 mL THF was cooled to −35° C. Then a solution of 5.44 g (17.0 mmol) (1R)—B-chlorodiisopinocampheylborane in 20 mL THF was added dropwise so that the reaction temperature remained between −35° C. and −25° C.; the reaction mixture was kept for 1 h at this temperature, then the cooling bath was removed and the mixture was stirred overnight at RT. To complete the reaction another 3.0 g (9.4 mmol) (1R)—B-chlorodiisopinocampheylborane were added and the mixture was stirred for a further 5 h. While cooling with ice 30 mL 1 M NaOH and 30 mL TBME were added dropwise and the mixture was stirred for 15 min. The aqueous phase was separated off, the organic phase was extracted with 15 mL 1 M NaOH and 25 mL water. The combined aqueous phases were acidified with 2 M HCl while cooling with ice, extracted three times with 40 mL TBME and the combined organic phases were dried over Na2SO4. After the desiccant and solvent had been eliminated the residue was reacted further without purification.

reactant | 3-(3-bromo-4-methyl-phenyl)-2-oxo-propionic acid | 11.3 mmol, 2.9 g | BrC=1C=C(C=CC1C)CC(C(=O)O)=O | C10H9BrO3
reactant | triethylamine | 15.1 mmol, 2.0 mL | C(C)N(CC)CC | C6H15N
reactant | TBME | 30 mL | CC(C)(C)OC | C5H12O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (R)-3-(3-bromo-4-methyl-phenyl)-2-hydroxy-propionic acid | BrC=1C=C(C=CC1C)C[C@H](C(=O)O)O | C10H11BrO3
